US07863332B2
b. Synthesis of 3-[2-butoxy-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoic acid
In a manner similar to that of Example (19g), by reaction of 200 mg (5.0 mmol, ˜8 eq) of sodium hydroxide and methyl 3-[2-butoxy-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoate, prepared in the preceding step, in 6 ml of a tetrahydrofuran/methanol mixture (8/2), and after crystallization from pentane, 200 mg of 3-[2-butoxy-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoic acid are obtained in the form of a white powder (m.p.=77-78° C.). Yield=64% over the two steps a and b.

reactant | sodium hydroxide | 5.0 mmol, 200 mg, ˜8 eq | [OH-].[Na+]
reactant | methyl 3-[2-butoxy-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoate | C(CCC)OC1=C(C=CC(=C1)CCC(=O)OC)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | C29H42N2O4
solvent | tetrahydrofuran methanol | 6 ml | O1CCCC1.CO
product | 3-[2-butoxy-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoic acid | Yield=64% | C(CCC)OC1=C(C=CC(=C1)CCC(=O)O)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | C28H40N2O4
